US05447957
c) 2-(2-Amino-4-trifluoromethylphenoxy)benzoic acid
A mixture of methyl 2-(2-amino-4-trifluoromethylphenoxy)benzoate (19.2 g, 0.062 mol) and 2N sodium hydroxide (65 mL, 0.13 mol) in tetrahydrofuran (100 mL) was warmed to 50° C. while stirring under argon for 3 h. The tetrahydrofuran was evaporated, and the aqueous solution was acidified with dilute HCl, extracted with ethyl acetate, dried over anhydrous MgSO4, filtered and evaporated. The crude product was recrystallized from EtOAc/hexane to give the title compound as a white crystalline solid. 1H NMR (250 MHz, CD3OD) δ7.91 (d, 1H), 7.50 (dd, 1H), 7.22 (dd, 1H), 7.11 (d, 1H), 6.97 (d, 1H), 6.86 (d, 1H), 6.78 (d, 1H).

reactant | methyl 2-(2-amino-4-trifluoromethylphenoxy)benzoate | 0.062 mol, 19.2 g | NC1=C(OC2=C(C(=O)OC)C=CC=C2)C=CC(=C1)C(F)(F)F | C15H12F3NO3
reactant | sodium hydroxide | 0.13 mol, 2N, 65 mL | [OH-].[Na+]
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 2-(2-Amino-4-trifluoromethylphenoxy)benzoic acid | NC1=C(OC2=C(C(=O)O)C=CC=C2)C=CC(=C1)C(F)(F)F | C14H10F3NO3
